US06992107B1
4-Isopropylbenzyl 5-amino-4-oxopentanoate hydrochloride [compound 21]
From 4-isopropylbenzyl alcohol (5.0 ml) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 2 days. The yield was 1.0 g (56%).

reactant | 4-isopropylbenzyl alcohol | 5.0 ml | C(C)(C)C1=CC=C(CO)C=C1 | C10H14O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-Isopropylbenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC=C(C=C1)C(C)C)=O | InChI=1S/C15H21NO3.ClH/c1-11(2)13-5-3-12(4-6-13)10-19-15(18)8-7-14(17)9-16;/h3-6,11H,7-10,16H2,1-2H3;1H
